US03932429
A mixture of 3.5 g of 4-(3-methoxyphenyl)-4-cyano-1,1-ethylenedioxy-cyclohexane, 70 ml of 5 % aqueous potassium hydroxide and 70 ml of ethanol is refluxed for 22 hours. After cooling, the mixture is diluted with water, and then extracted with chloroform. The chloroform extract is dried and evaporated to remove solvent. The residue thus obtained is recrystallized from a mixture of ethylacetate and n-hexane. 2.32 g of 4-(3-methoxyphenyl)-4-carbamoyl-1,1-ethylenedioxy-cyclohexane are obtained. M.p. 135° - 138°C.

reactant | 4-(3-methoxyphenyl)-4-cyano-1,1-ethylenedioxy-cyclohexane | 3.5 g | COC=1C=C(C=CC1)C1(CCC2(CC1)OCCO2)C#N | C16H19NO3
reactant | potassium hydroxide | 70 ml | [OH-].[K+]
reactant | ethanol | 70 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(3-methoxyphenyl)-4-carbamoyl-1,1-ethylenedioxy-cyclohexane | 2.32 g | COC=1C=C(C=CC1)C1(CCC2(CC1)OCCO2)C(N)=O | C16H21NO4
